US07579469B2
To a solution of 2-(3-bromophenyl)-2-methyl-[1,3]dioxolane (1 g) in THF (5 mL) was added portionwise magnesium metal (0.2 g) and the reaction heated at refluxed for 30 minutes. The mixture was cooled to room temperature and CuBr-DMS complex (846 mg, 4.11 mmol) was added. The mixture was stirred 3 minutes at room temperature, cooled to 0° C. and 1,1,1-trifluoro-4-methylpent-3-en-2-one (62 mg, 4.11 mmol) in 20 mL of THF was added dropwise. The mixture was stirred for 30 minutes at 0° C., warmed to room temperature, stirred overnight and quenched with aqueous ammonium chloride solution and ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, and concentrated in vacuo to afford a residue that was purified by flash chromatography. Concentration in vacuo of the product-rich fractions afforded 0.56 g of 1,1,1-trifluoro-4-methyl-4-[3-(2-methyl-[1,3]dioxolan-2-yl)phenyl]pentan-2-one.

reactant | 2-(3-bromophenyl)-2-methyl-[1,3]dioxolane | 1 g | BrC=1C=C(C=CC1)C1(OCCO1)C | C10H11BrO2
reactant | magnesium | 0.2 g | [Mg] | Mg
reactant | 1,1,1-trifluoro-4-methylpent-3-en-2-one | 4.11 mmol, 62 mg | FC(C(C=C(C)C)=O)(F)F | C6H7F3O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1,1,1-trifluoro-4-methyl-4-[3-(2-methyl-[1,3]dioxolan-2-yl)phenyl]pentan-2-one | 0.56 g | FC(C(CC(C)(C1=CC(=CC=C1)C1(OCCO1)C)C)=O)(F)F | C16H19F3O3
